US08486967B2
f) 8-(4-Fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a solution of hydroxylamine hydrochloride (370 mg, 5.32 mmol) and N,N-diisopropylethylamine (543 μL, 3.19 mmol) in MeOH (2 mL) and EtOH (2 mL) was added a solution of N-(3-(4-fluoro-phenyl)-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea (340 mg, 1.06 mmol) in MeOH (2 mL) and EtOH (2 mL). The reaction mixture was stirred at room temperature for 1 hour and then at 60° C. for 3 hours. The solvents were evaporated and saturated aqueous NaHCO3 solution was added to the residue. The aqueous phase was extracted with CH2Cl2, the combined organic phases were dried over sodium sulfate, the solvent was evaporated and the residue purified by silica gel chromatography using dichloromethane/methanol (with 10% ammonia) as eluent. The title compound was obtained as a white solid (205 mg, 84%).

reactant | hydroxylamine hydrochloride | 5.32 mmol, 370 mg | Cl.NO
reactant | N,N-diisopropylethylamine | 3.19 mmol, 543 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-(4-fluoro-phenyl)-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea | 1.06 mmol, 340 mg | FC1=CC=C(C=C1)C=1C(=NC=CC1)NC(=S)NC(=O)OCC | C15H14FN3O2S
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOH | 2 mL | CCO | C2H6O
product | 8-(4-Fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | FC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C12H9FN4
